US06664272B2
3,5-Bis-(2,6-difluorobenzylidene)-1-methylpiperidin-4-one
To a solution of 1.0 g (8.84 mmol) of 1-methylpiperidine-4-one and 2.57 g (18.09 mmol) of 2,6-difluoro benzaldehyde in 90 mL of a 0.25M solution of aqueous NaOH (22.59 mmol) was added 1.16 mL (0.88 mmol) of a 25% w/w aqueous solution of cetyltrimethylammonium chloride. The mixture was allowed to stir vigorously at room temperature for 12 hours, diluted with 100 ml of brine and extracted with three 40 mL portions of methylene chloride. The organic phase was dried over anhydrous MgSO4 and concentrated in vacuo. The residue was slurried in 100 ml of boiling ethyl acetate and the insolubles were removed by rapid suction filtration. The filtrate was concentrated in vacuo and recrystallized from ethyl acetate to provide 3.01 g (94%) of a bright yellow solid.

reactant | 1-methylpiperidine-4-one | 8.84 mmol, 1.0 g | CN1CCC(CC1)=O | C6H11NO
reactant | 2,6-difluoro benzaldehyde | 18.09 mmol, 2.57 g | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | NaOH | 22.59 mmol | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 3,5-Bis-(2,6-difluorobenzylidene)-1-methylpiperidin-4-one | 3.01 g, 94% | FC1=C(C=C2CN(CC(C2=O)=CC2=C(C=CC=C2F)F)C)C(=CC=C1)F | C20H15F4NO
